US08183271B2
Ethyl E-8-[2-(4-tert-butylbenzyloxy)phenyl]-6-(4-cyanobenzyl)oct-7-enoate
A solution of 1.75 g (4.64 mmol) of ethyl E-6-(4-cyanobenzyl)-8-(2-hydroxyphenyl)oct-7-enoate in 50 ml of dry acetonitrile is mixed with 1579 mg (6.95 mmol) of 4-(tert-butyl)benzyl bromide and 961 mg (6.95 mmol) of anhydrous potassium carbonate and heated under reflux for 12 hours. The mixture is then concentrated to dryness. The residue is taken up in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. The organic phase is concentrated. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 8:1→4:1). 2.24 g (4.28 mmol, 92% of theory) of a solid are obtained.

reactant | ethyl E-6-(4-cyanobenzyl)-8-(2-hydroxyphenyl)oct-7-enoate | 4.64 mmol, 1.75 g | C(#N)C1=CC=C(CC(CCCCC(=O)OCC)\C=C\C2=C(C=CC=C2)O)C=C1 | C24H27NO3
reactant | 4-(tert-butyl)benzyl bromide | 6.95 mmol, 1579 mg | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | potassium carbonate | 6.95 mmol, 961 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Ethyl E-8-[2-(4-tert-butylbenzyloxy)phenyl]-6-(4-cyanobenzyl)oct-7-enoate | C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)/C=C/C(CCCCC(=O)OCC)CC2=CC=C(C=C2)C#N)C=C1 | C35H41NO3
